US08748624B2
STEP D: ethyl 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (106 mg, 0.50 mmol) was added to a DCE solution (10 mL) of ethyl 3-(5-(3-chloro-5-formylphenyl)picolinamido)propanoate (90 mg, 0.25 mmol), 4′-fluoro-[1,1′-biphenyl]-4-amine (47 g, 0.25 mmol), and AcOH (0.06 mL, 1.00 mmol) and the resulting mixture was heated to 50° C. After 16 h the mixture was concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 0.50 mmol, 106 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(3-chloro-5-formylphenyl)picolinamido)propanoate | 0.25 mmol, 90 mg | ClC=1C=C(C=C(C1)C=O)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H17ClN2O4
reactant | 4′-fluoro-[1,1′-biphenyl]-4-amine | 0.25 mmol, 47 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10FN
reactant | AcOH | 1.00 mmol, 0.06 mL | CC(=O)O | C2H4O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(3-chloro-5-(((4′-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=C(C=C(C1)CNC1=CC=C(C=C1)C1=CC=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H27ClFN3O3
